US07820654B2
Synthesis of (4-methanesulfonyl-phenyl)-(6-morpholin-4-yl-2-phenyl-pyrimidin-4-yl)-amine
A sample of (6-chloro-2-phenyl-pyrimidin-4-yl)-(4-methanesulfonyl-phenyl)-amine (0.18 g, 0.48 mmol) was treated with morpholine (0.08 g, 0.97 mmol) in n-butanol at refluxing temperature for 12 hour to give the desired product.

reactant | (6-chloro-2-phenyl-pyrimidin-4-yl)-(4-methanesulfonyl-phenyl)-amine | 0.48 mmol, 0.18 g | ClC1=CC(=NC(=N1)C1=CC=CC=C1)NC1=CC=C(C=C1)S(=O)(=O)C | C17H14ClN3O2S
reactant | morpholine | 0.97 mmol, 0.08 g | N1CCOCC1 | C4H9NO
solvent | n-butanol | C(CCC)O | C4H10O
product | (4-methanesulfonyl-phenyl)-(6-morpholin-4-yl-2-phenyl-pyrimidin-4-yl)-amine | CS(=O)(=O)C1=CC=C(C=C1)NC1=NC(=NC(=C1)N1CCOCC1)C1=CC=CC=C1 | C21H22N4O3S
